US08242280B2
Step 1: Synthesis of (3-bromo-phenyl)-oxo-acetic acid
To a solution of (3-Bromo-phenyl)-oxo-acetic acid ethyl ester (1 g, 3.9 mmol) in methanol (10 mL) was added potassium hydroxide (2 mL, 50% w/v in water) and the resulting mixture was stirred at room temperature for 30 minutes. Hydrochloric acid (1 N) was added to adjust to pH 4. The mixture was extracted with ethyl acetate (5 mL×4) and the combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was used in next step without further purification (0.8 g, 89% yield). MS: m/z 230 (M−H+).

reactant | (3-Bromo-phenyl)-oxo-acetic acid ethyl ester | 3.9 mmol, 1 g | C(C)OC(C(=O)C1=CC(=CC=C1)Br)=O | C10H9BrO3
reactant | potassium hydroxide | 2 mL | [OH-].[K+]
reactant | Hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | (3-bromo-phenyl)-oxo-acetic acid | 89% yield | BrC=1C=C(C=CC1)C(C(=O)O)=O | C8H5BrO3
